US04255575
Following essentially the same procedure but substituting methyl 2-hydroxy-5-[1-hydroxy-2-[4-(4-methoxyphenyl)-1-piperazinyl]ethyl]benzoate hydrochloride and methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]benzoate hydrochloride for the methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]ethyl]benzoate hydrochloride above and using gaseous methylamine in lieu of ammonia results in the preparation of 2-hydroxy-5-[1-hydroxy-2-[4-(4-methoxyphenyl)-1-piperazinyl]ethyl]-N-methylbenzamide monohydrochloride hydrate, having a m.pt. of 188°-9° C. (dec.), and 2-hydroxy-5-[1-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-N-methylbenzamide monohydrochloride monohydrate, having a m.pt. of 162°-5° C. (dec.), respectively.

reactant | methyl 2-hydroxy-5-[1-hydroxy-2-[4-(4-methoxyphenyl)-1-piperazinyl]ethyl]benzoate hydrochloride | Cl.OC1=C(C(=O)OC)C=C(C=C1)C(CN1CCN(CC1)C1=CC=C(C=C1)OC)O
reactant | methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]benzoate hydrochloride | Cl.OC1=C(C(=O)OC)C=C(C=C1)C(CN1CCN(CC1)C1=C(C=CC=C1)OC)O
reactant | methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]ethyl]benzoate hydrochloride | Cl.OC1=C(C(=O)OC)C=C(C=C1)C(CN1CCN(CC1)C1=C(C=CC=C1)C)O
reactant | methylamine | CN | CH5N
reactant | ammonia | N | H3N
product | 2-hydroxy-5-[1-hydroxy-2-[4-(4-methoxyphenyl)-1-piperazinyl]ethyl]-N-methylbenzamide monohydrochloride hydrate | O.Cl.OC1=C(C(=O)NC)C=C(C=C1)C(CN1CCN(CC1)C1=CC=C(C=C1)OC)O | InChI=1S/C21H27N3O4.ClH.H2O/c1-22-21(27)18-13-15(3-8-19(18)25)20(26)14-23-9-11-24(12-10-23)16-4-6-17(28-2)7-5-16;;/h3-8,13,20,25-26H,9-12,14H2,1-2H3,(H,22,27);1H;1H2
